US08470805B2
Preparation of KMUP-1-Repaglinide Complex (13)
KMUP-1 (8.0 g) is dissolved in a mixture of ethanol (100 mL) and water (30 mL), to which repaglinide (9.1 g) dissolved in ethyl alcohol (150 mL) is added, and the mixture is reacted at 50° C. for 20 mins. The precipitate is obtained through filtering under room temperature, which is re-crystallized from methanol over night at room temperature and then filtrated to obtain KMUP-1-repaglinide complex (15.3 g).

reactant | KMUP-1 | 8.0 g | CN1C2=C(C(=O)N(C1=O)C)N(C=N2)CCN3CCN(CC3)C4=CC=CC=C4Cl | C19H23ClN6O2
reactant | repaglinide | 9.1 g | CCOC=1C=C(C=CC1C(=O)O)CC(=O)N[C@@H](CC(C)C)C=2C=CC=CC2N3CCCCC3 | C27H36N2O4
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 30 mL | O | H2O
solvent | ethyl alcohol | 150 mL | C(C)O | C2H6O
product | KMUP-1 Repaglinide | CN1C2=C(C(=O)N(C1=O)C)N(C=N2)CCN3CCN(CC3)C4=CC=CC=C4Cl.CCOC=1C=C(C=CC1C(=O)O)CC(=O)N[C@@H](CC(C)C)C=2C=CC=CC2N3CCCCC3 | InChI=1S/C27H36N2O4.C19H23ClN6O2/c1-4-33-25-17-20(12-13-22(25)27(31)32)18-26(30)28-23(16-19(2)3)21-10-6-7-11-24(21)29-14-8-5-9-15-29;1-22-17-16(18(27)23(2)19(22)28)26(13-21-17)12-9-24-7-10-25(11-8-24)15-6-4-3-5-14(15)20/h6-7,10-13,17,19,23H,4-5,8-9,14-16,18H2,1-3H3,(H,28,30)(H,31,32);3-6,13H,7-12H2,1-2H3/t23-;/m0./s1
